US06562807B2
4-Cyclohexylaniline (8.0 g, 53 mmol) was dissolved in methanol (200 mL) and a suspension of 4-formylbenzoic acid (9.4 g, 53 mmol) in glacial acetic acid (12 mL) was added in portions and the resulting mixture was heated at reflux temperature for 1.5 hour. After cooling to room temperature a mixture of sodium cyano borohydride (5.0 g, 80 mmol) in methanol (100 mL) was added in portions, and the resulting mixture was stirred at room temperature for 16 hours. The mixture was filtered and washed thoroughly with water and dried in vacuo at 50° C. for 3 days to afford 12.8 g (78%) of 4-[(4-cyclohexylphenylamino)methyl]benzoic acid.

reactant | 4-Cyclohexylaniline | 53 mmol, 8.0 g | C1(CCCCC1)C1=CC=C(N)C=C1 | C12H17N
reactant | 4-formylbenzoic acid | 53 mmol, 9.4 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | sodium cyano borohydride | 80 mmol, 5.0 g | C(#N)[BH3-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 100 mL | CO | CH4O
product | 4-[(4-cyclohexylphenylamino)methyl]benzoic acid | 12.8 g, 78% | C1(CCCCC1)C1=CC=C(C=C1)NCC1=CC=C(C(=O)O)C=C1 | C20H23NO2
